US07807709B2
b. Benzyl-cyclopropyl-carbamoyl chloride
The title compound is prepared analogously as described for cyclohexylmethyl-methylcarbamoyl chloride. TLC, Rf (CH2Cl2/MeOH 95:5)=0.9. MS (LC-MS): [M+H]+=210.2. tR (HPLC, Waters Symmetry C18 column, 20-100% CH3CN/H2O/5 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 4.67 min.

reactant | cyclohexylmethyl-methylcarbamoyl chloride | C1(CCCCC1)CN(C(=O)Cl)C | C9H16ClNO
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | Benzyl-cyclopropyl-carbamoyl chloride | C(C1=CC=CC=C1)N(C(=O)Cl)C1CC1 | C11H12ClNO
